US05750724
3-{[3-(1H-Indol-3-yl)-propylamino]methyl}-2,3-dihydro-benzo[1,4]dioxin-6-ol
3-Indolepropionic acid (1.4 g, 7.4 mmole), 1-hydroxybenzotriazole hydrate (1.2 g, 8.9 mmole) and 1,3-diisopropylcarbodiimide (2.8 ml, 17.8 mmole) were combined in 100 ml of DMF and stirred at room temperature for 2 hours under a nitrogen atmosphere. To this was added dropwise (S)-7-hydroxy-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride (1.6 g, 7.4 mmole) in 50 ml of DMF and the mixture was further stirred for 24 hours. The solvent was removed and the residue partitioned between dichloromethane and water. The separated dichloromethane layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue was chromatographed on a silica gel column using ethyl acetate as the eluant. Fractions containing product were concentrated and washed with a minimum amount of THF to remove a by-product and to give 1.5 g (60%) of the desired product, (S)-(7-hydroxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-4-(1H-indol-3-yl)-propanamide, as a white fluffy solid.

reactant | 3-Indolepropionic acid | 7.4 mmole, 1.4 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | 1-hydroxybenzotriazole hydrate | 8.9 mmole, 1.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-diisopropylcarbodiimide | 17.8 mmole, 2.8 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | (S)-7-hydroxy-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride | 7.4 mmole, 1.6 g | Cl.OC=1C=CC2=C(O[C@H](CO2)CN)C1
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-{[3-(1H-Indol-3-yl)-propylamino]methyl}-2,3-dihydro-benzo[1,4]dioxin-6-ol | 1.5 g, 60% | N1C=C(C2=CC=CC=C12)CCCNCC1OC2=C(OC1)C=CC(=C2)O | C20H22N2O3
